US06780996B2
Following the procedure used to prepare Example 17, 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-fluoro-3-quinolinecarbonitrile (138 mg, 0.34 mmol) and 2-methoxyethanol provides 105 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-(2-methoxyethoxy)3-quinolinecarbonitrile, mp 215-217° C.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-fluoro-3-quinolinecarbonitrile | 0.34 mmol, 138 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCC)F)C#N | C19H14Cl2FN3O2
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-ethoxy-7-(2-methoxyethoxy)3-quinolinecarbonitrile | 105 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCCOC)C#N | C22H21Cl2N3O4
